** sch_path: /foss/designs/SAR_ADC_IHP/xschem/SAR_ADC/sar.sch
**.subckt sar vinp rst clk vinn VSS VDD compn compp compout eoc b9 b7 b0 b11 b3 b4 b2 b1 b8 b6 b5 b10
*.ipin vinp
*.iopin VDD
*.opin b11
*.ipin vinn
*.ipin clk
*.iopin VSS
*.opin b10
*.opin b9
*.opin b8
*.opin b7
*.opin b6
*.opin b5
*.opin b4
*.opin b3
*.opin b2
*.opin b1
*.opin b0
*.opin compp
*.opin compn
*.opin compout
*.opin eoc
*.ipin rst
x1 VDD compp compout compn net1 VSS comp_clk DT_comparator
x2 compn vcm b9 b7 b0 b11 b3 b4 b2 b1 b8 b6 b5 b10 VSS VDD sample compp vinp vinn d9 d7 d0 d11 d3 d4 d2 d1 d8 d6 d5 d10 dac cu=20f
x3 b9 b7 b0 b11 b3 b4 b2 b1 b8 b6 b5 b10 VSS VDD sample d9 d7 d0 d11 d3 d4 d2 d1 d8 d6 d5 d10 compout comp_clk rst eoc logic
V1 vcm VSS 0.9
x6 net1 net2 VDD VSS sg13g2_inv_2
x4 net2 rst VDD VSS sg13g2_dlygate4sd1_1
**.ends

* expanding   symbol:  comparator/discrete_time/DT_comparator.sym # of pins=7
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/comparator/discrete_time/DT_comparator.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/comparator/discrete_time/DT_comparator.sch
.subckt DT_comparator VDD vinp vout vinn en VSS PULSE
*.iopin VDD
*.opin vout
*.iopin VSS
*.ipin vinp
*.ipin vinn
*.ipin en
*.iopin PULSE
x2 VDD voutp_comp voutp_buf VSS buffer_lv W_P_INV=1.0u L_P_INV=0.13u W_N_INV=1.0u L_N_INV=0.13u
x3 VDD voutn_comp voutn_buf VSS buffer_lv W_P_INV=1.0u L_P_INV=0.13u W_N_INV=1.0u L_N_INV=0.13u
x5 VDD PULSEN PULSE VSS inverter_lv W_P=2.0u L_P=0.13u W_N=2.0u L_N=0.13u n=1
* noconn #net1
x4 VDD voutp_buf net1 VSS net3 voutn_buf SR_latch W_P_SR=1.0u L_P_SR=0.13u W_N_SR=1.0u L_N_SR=0.13u
x6 VDD voutp_buf VSS voutn_buf PULSEN net2 en pgen
V1 VDD net2 1
x1 PULSE PULSEN VDD voutp_comp vinp VSS voutn_comp vinn dynamic_biasing_comparator
x7 VDD net3 vout VSS buffer_lv W_P_INV=3.0u L_P_INV=0.13u W_N_INV=3.0u L_N_INV=0.13u
.ends


* expanding   symbol:  dac_icms_cell/dac.sym # of pins=32
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/dac_icms_cell/dac.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/dac_icms_cell/dac.sch
.subckt dac vdacn vcm b9 b7 b0 b11 b3 b4 b2 b1 b8 b6 b5 b10 VSS VDD sample_pin vdacp vinp vinn D9 D7 D0 D11 D3 D4 D2 D1 D8 D6 D5
+ D10  cu=5u
*.ipin D0
*.ipin b0
*.ipin D1
*.ipin b1
*.ipin D2
*.ipin b2
*.ipin D3
*.ipin b3
*.ipin D4
*.ipin b4
*.ipin D5
*.ipin b5
*.ipin D6
*.ipin b6
*.ipin D7
*.ipin b7
*.ipin D8
*.ipin b8
*.ipin D9
*.ipin b9
*.ipin D10
*.ipin b10
*.ipin D11
*.ipin b11
*.iopin vinp
*.iopin vcm
*.ipin sample_pin
*.iopin vinn
*.iopin vdacp
*.iopin vdacn
*.iopin VSS
*.iopin VDD
x14 b0 a_rail_p VSS D0 VDD vdacn unit_cell_n W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=32
x15 b1 a_rail_p VSS D1 VDD vdacn unit_cell_n W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=16
x16 b2 a_rail_p VSS D2 VDD vdacn unit_cell_n W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=8
x1 b3 a_rail_p VSS D3 VDD vdacn unit_cell_n W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=4
x2 b4 a_rail_p VSS D4 VDD vdacn unit_cell_n W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=2
x3 b5 a_rail_p VSS D5 VDD vdacn unit_cell_n W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=1
x4 b6 a_rail_p VSS D6 VDD vdacn2 unit_cell_n W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=32
x5 b7 a_rail_p VSS D7 VDD vdacn2 unit_cell_n W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=16
x6 b8 a_rail_p VSS D8 VDD vdacn2 unit_cell_n W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=8
x7 b9 a_rail_p VSS D9 VDD vdacn2 unit_cell_n W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=4
x8 b10 a_rail_p VSS D10 VDD vdacn2 unit_cell_n W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=2
x9 b11 a_rail_p VSS D11 VDD vdacn2 unit_cell_n W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=1
x11 VDD sample VSS vdacn vcm sample_n transmission_gate_lv_w_dummy W_P=1.2u L_P=0.13u W_N=1u L_N=0.13u W_P_D=1.0u L_P_D=0.13u
+ W_N_D=1.0u L_N_D=0.13u n=64
x12 VDD sample VSS a_rail_p vinp sample_n transmission_gate_lv_w_dummy W_P=1u L_P=0.13u W_N=1u L_N=0.13u W_P_D=1.0u L_P_D=0.13u
+ W_N_D=1.0u L_N_D=0.13u n=64
x13 VDD sample_n_d VSS a_rail_p vcm sample_d transmission_gate_lv_w_dummy W_P=1u L_P=0.13u W_N=1u L_N=0.13u W_P_D=1.0u L_P_D=0.13u
+ W_N_D=1.0u L_N_D=0.13u n=64
x17 VDD sample_n sample VSS inverter_lv W_P=10.0u L_P=0.13u W_N=10.0u L_N=0.13u n=10
x18 b0 a_rail_n VSS D0 VDD vdacp unit_cell W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=32
x19 b1 a_rail_n VSS D1 VDD vdacp unit_cell W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=16
x20 b2 a_rail_n VSS D2 VDD vdacp unit_cell W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=8
x21 b3 a_rail_n VSS D3 VDD vdacp unit_cell W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=4
x22 b4 a_rail_n VSS D4 VDD vdacp unit_cell W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=2
x23 b5 a_rail_n VSS D5 VDD vdacp unit_cell W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=1
x24 b6 a_rail_n VSS D6 VDD vdacp2 unit_cell W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=32
x25 b7 a_rail_n VSS D7 VDD vdacp2 unit_cell W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=16
x26 b8 a_rail_n VSS D8 VDD vdacp2 unit_cell W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=8
x27 b9 a_rail_n VSS D9 VDD vdacp2 unit_cell W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=4
x28 b10 a_rail_n VSS D10 VDD vdacp2 unit_cell W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=2
x29 b11 a_rail_n VSS D11 VDD vdacp2 unit_cell W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=cu n=1
x31 VDD sample VSS vdacp vcm sample_n transmission_gate_lv_w_dummy W_P=1u L_P=0.13u W_N=1u L_N=0.13u W_P_D=1.0u L_P_D=0.13u
+ W_N_D=1.0u L_N_D=0.13u n=64
x32 VDD sample VSS a_rail_n vinn sample_n transmission_gate_lv_w_dummy W_P=1u L_P=0.13u W_N=1u L_N=0.13u W_P_D=1.0u L_P_D=0.13u
+ W_N_D=1.0u L_N_D=0.13u n=64
x33 VDD sample_n_d VSS a_rail_n vcm sample_d transmission_gate_lv_w_dummy W_P=1u L_P=0.13u W_N=1u L_N=0.13u W_P_D=1.0u L_P_D=0.13u
+ W_N_D=1.0u L_N_D=0.13u n=64
x34 VDD sample_pin sample_n VSS inverter_lv W_P=1.0u L_P=0.13u W_N=1.0u L_N=0.13u n=10
C1 vdacn2 vdacn cu m=1
C2 vdacp2 vdacp cu m=1
x35 VDD sample VSS vdacn2 vcm sample_n transmission_gate_lv_w_dummy W_P=1.2u L_P=0.13u W_N=1u L_N=0.13u W_P_D=1.0u L_P_D=0.13u
+ W_N_D=1.0u L_N_D=0.13u n=64
x36 VDD sample VSS vdacp2 vcm sample_n transmission_gate_lv_w_dummy W_P=1.2u L_P=0.13u W_N=1u L_N=0.13u W_P_D=1.0u L_P_D=0.13u
+ W_N_D=1.0u L_N_D=0.13u n=64
C3 vdacn2 a_rail_p cu m=1
C4 vdacp2 a_rail_n cu m=1
x10 VDD sample_n_d sample_d VSS inverter_lv W_P=10.0u L_P=0.13u W_N=10.0u L_N=0.13u n=10
x30 VDD net1 sample_n_d VSS inverter_lv W_P=1.0u L_P=0.13u W_N=1.0u L_N=0.13u n=10
x37 net1 sample VDD VSS sg13g2_dlygate4sd3_1
.ends


* expanding   symbol:  logic/logic.sym # of pins=31
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/logic/logic.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/logic/logic.sch
.subckt logic b9 b7 b0 b11 b3 b4 b2 b1 b8 b6 b5 b10 VSS VDD sample d9 d7 d0 d11 d3 d4 d2 d1 d8 d6 d5 d10 comp_in clk rst_pin eoc
*.iopin VDD
*.iopin VSS
*.ipin clk
*.ipin comp_in
*.opin b0
*.opin d0
*.opin b1
*.opin d1
*.opin b2
*.opin d2
*.opin b3
*.opin d3
*.opin b4
*.opin d4
*.opin b5
*.opin d5
*.opin b6
*.opin d6
*.opin b7
*.opin d7
*.opin b8
*.opin d8
*.opin b9
*.opin d9
*.opin b10
*.opin d10
*.opin b11
*.opin d11
*.ipin rst_pin
*.opin eoc
*.opin sample
x1 clk net1 rst comp_in VDD b0 VSS d0 bit_cell
x14 clk d0 rst comp_in VDD b1 VSS d1 bit_cell
x15 clk d1 rst comp_in VDD b2 VSS d2 bit_cell
x16 clk d2 rst comp_in VDD b3 VSS d3 bit_cell
x17 clk d3 rst comp_in VDD b4 VSS d4 bit_cell
x18 clk d4 rst comp_in VDD b5 VSS d5 bit_cell
x19 clk d5 rst comp_in VDD b6 VSS d6 bit_cell
x20 clk d6 rst comp_in VDD b7 VSS d7 bit_cell
x21 clk d7 rst comp_in VDD b8 VSS d8 bit_cell
x22 clk d8 rst comp_in VDD b9 VSS d9 bit_cell
x23 clk d9 rst comp_in VDD b10 VSS d10 bit_cell
x24 clk d10 rst comp_in VDD b11 VSS d11 bit_cell
x3 rst rst_pin rst_reg VDD VSS sg13g2_nor2_2
x4 clk d11 rst VDD VDD eoc VSS smp bit_cell
x5 clk smp rst VDD VDD net2 VSS rst_reg bit_cell
x2 clk VDD rst VDD VDD net3 VSS net1 bit_cell
x6 VDD net4 net5 VSS buffer_lv W_P_INV=3.0u L_P_INV=0.13u W_N_INV=1.0u L_N_INV=0.13u
x7 VDD net5 sample VSS buffer_lv W_P_INV=10.0u L_P_INV=0.13u W_N_INV=10.0u L_N_INV=0.13u
x8 net4 smp rst_pin VDD VSS sg13g2_or2_2
.ends


* expanding   symbol:  buffer/buffer_lv.sym # of pins=4
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/buffer/buffer_lv.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/buffer/buffer_lv.sch
.subckt buffer_lv VDD vin vout VSS  W_P_INV=3.0u L_P_INV=0.13u W_N_INV=1.0u L_N_INV=0.13u
*.ipin vin
*.iopin VDD
*.iopin VSS
*.opin vout
x1 VDD vin net1 VSS inverter_lv W_P=W_P_INV L_P=L_P_INV W_N=W_N_INV L_N=L_N_INV n=1
x2 VDD net1 vout VSS inverter_lv W_P=W_P_INV L_P=L_P_INV W_N=W_N_INV L_N=L_N_INV n=1
.ends


* expanding   symbol:  inverter/inverter_lv.sym # of pins=4
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/inverter/inverter_lv.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/inverter/inverter_lv.sch
.subckt inverter_lv VDD vin vout VSS  W_P=3.0u L_P=0.13u W_N=1.0u L_N=0.13u n=1
*.ipin vin
*.iopin VDD
*.iopin VSS
*.opin vout
XM1 vout vin VDD VDD sg13_lv_pmos w=W_P l=L_P ng=1 m=n
XM2 vout vin VSS VSS sg13_lv_nmos w=W_N l=L_N ng=1 m=n
.ends


* expanding   symbol:  comparator/SR_latch/SR_latch.sym # of pins=6
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/comparator/SR_latch/SR_latch.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/comparator/SR_latch/SR_latch.sch
.subckt SR_latch VDD S Qn VSS Q R  W_P_SR=1.0u L_P_SR=0.13u W_N_SR=1.0u L_N_SR=0.13u
*.iopin VDD
*.opin Q
*.iopin VSS
*.ipin S
*.ipin R
*.opin Qn
x1 VDD Q R Qn VSS NOR_gate W_P=W_P_SR L_P=L_P_SR W_N=W_N_SR L_N=L_N_SR
x2 VDD Qn Q S VSS NOR_gate W_P=W_P_SR L_P=L_P_SR W_N=W_N_SR L_N=L_N_SR
.ends


* expanding   symbol:  comparator/pulse_gen/pgen.sym # of pins=7
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/comparator/pulse_gen/pgen.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/comparator/pulse_gen/pgen.sch
.subckt pgen VDD in2 VSS in1 PULSE_n VTUNE en
*.iopin VDD
*.iopin in2
*.iopin in1
*.iopin VSS
*.iopin VTUNE
*.iopin PULSE_n
*.iopin en
XM1 READY in1 VSS VSS sg13_lv_nmos w=.15u l=0.13u ng=1 m=1
XM2 READY vx_n VDD VDD sg13_lv_pmos w=2u l=0.13u ng=1 m=1
XM4 vx net1 net5 VDD sg13_lv_pmos w=2u l=0.13u ng=1 m=1
x46 net1 vxs READY VDD VSS sg13g2_or2_2
x6 vx_n vxs VDD VSS sg13g2_inv_2
XM3 READY in2 VSS VSS sg13_lv_nmos w=.15u l=0.13u ng=1 m=1
XM5 vx READY VSS VSS sg13_lv_nmos w=1u l=0.13u ng=1 m=1
XM7 net5 VTUNE VDD VDD sg13_lv_pmos w=2u l=0.13u ng=1 m=1
XM6 net4 vx VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
XM8 net3 vx net2 VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM9 net3 vx net4 VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
XM10 net2 vx VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM11 VDD net3 net2 VDD sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM12 VSS net3 net4 VSS sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
x1 vxs net3 VDD VSS sg13g2_inv_2
x2 PULSE_n net1 en VDD VSS sg13g2_and2_2
XM13 READY en VDD VDD sg13_lv_pmos w=2u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  comparator/discrete_time/Dynamic-biasing/dynamic_biasing_comparator.sym # of pins=8
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/comparator/discrete_time/Dynamic-biasing/dynamic_biasing_comparator.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/comparator/discrete_time/Dynamic-biasing/dynamic_biasing_comparator.sch
.subckt dynamic_biasing_comparator di_clk_n di_clk VDD voutp vinp VSS voutn vinn
*.iopin VDD
*.opin voutp
*.opin voutn
*.ipin di_clk_n
*.iopin VSS
*.ipin vinp
*.ipin vinn
*.ipin di_clk
XM3a vs di_clk vctail VSS sg13_lv_nmos w=2.0u l=0.13u ng=1 m=1
XM12 voutp di_clk_n VSS VSS sg13_lv_nmos w=4.0u l=0.13u ng=1 m=1
XM8 net1 voutn VDD VDD sg13_lv_pmos w=8.0u l=0.13u ng=2 m=1
XM10 voutp voutn VSS VSS sg13_lv_nmos w=4.0u l=0.13u ng=1 m=1
XM11 voutn voutp VSS VSS sg13_lv_nmos w=4.0u l=0.13u ng=1 m=1
XM13 voutn di_clk_n VSS VSS sg13_lv_nmos w=4.0u l=0.13u ng=1 m=1
CPn vcpn VSS 100f m=1
CPp vcpp VSS 100f m=1
XM9 net2 voutp VDD VDD sg13_lv_pmos w=8.0u l=0.13u ng=2 m=1
XM6 voutp vcpn net1 VDD sg13_lv_pmos w=10.0u l=0.13u ng=2 m=1
XM7 voutn vcpp net2 VDD sg13_lv_pmos w=10.0u l=0.13u ng=2 m=1
CTAIL vctail VSS 600f m=1
XM3b vctail di_clk_n VSS VSS sg13_lv_nmos w=2.0u l=0.13u ng=1 m=1
XM1 vcpn vinp vs VSS sg13_lv_nmos w=4.0u l=0.13u ng=1 m=1
XM2 vcpp vinn vs VSS sg13_lv_nmos w=4.0u l=0.13u ng=1 m=1
XM4 vcpn di_clk VDD VDD sg13_lv_pmos w=2.0u l=0.13u ng=1 m=1
XM5 vcpp di_clk VDD VDD sg13_lv_pmos w=2.0u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  dac_icms_cell/unit_cell_n.sym # of pins=6
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/dac_icms_cell/unit_cell_n.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/dac_icms_cell/unit_cell_n.sch
.subckt unit_cell_n B A VSS D VDD vtop  W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=8f n=1
*.iopin VSS
*.iopin A
*.iopin VDD
*.ipin D
*.iopin B
*.iopin vtop
x1 VDD D VSS net1 B A dac_switch_n W_P_TG=0.15u L_P_TG=0.13u W_N_TG=0.15u L_N_TG=0.13u n=n
C1 net1 vtop cu m=n
.ends


* expanding   symbol:  transmission_gate/transmission_gate_lv_w_dummy.sym # of pins=6
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/transmission_gate/transmission_gate_lv_w_dummy.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/transmission_gate/transmission_gate_lv_w_dummy.sch
.subckt transmission_gate_lv_w_dummy VDD di_tg_ctrl VSS v_b v_a di_tg_ctrl_n  W_P=2.0u L_P=0.13u W_N=2.0u L_N=0.13u W_P_D=1.0u
+ L_P_D=0.13u W_N_D=1.0u L_N_D=0.13u n=1
*.iopin v_a
*.iopin v_b
*.iopin VDD
*.iopin VSS
*.ipin di_tg_ctrl
*.ipin di_tg_ctrl_n
XM1 v_a di_tg_ctrl v_b VSS sg13_lv_nmos w=W_N l=L_N ng=1 m=n
XM2 v_a di_tg_ctrl_n v_b VDD sg13_lv_pmos w=W_P l=L_P ng=1 m=n
XMdummy2 v_b di_tg_ctrl v_b VDD sg13_lv_pmos w=W_P_D l=L_P_D ng=1 m={n/2}
XMdummy1 v_b di_tg_ctrl_n v_b VSS sg13_lv_nmos w=W_N_D l=L_N_D ng=1 m={n/2}
.ends


* expanding   symbol:  dac_icms_cell/unit_cell.sym # of pins=6
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/dac_icms_cell/unit_cell.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/dac_icms_cell/unit_cell.sch
.subckt unit_cell B A VSS D VDD vtop  W_P_SPDT=1.0u L_P_SPDT=0.13u W_N_SPDT=1.0u L_N_SPDT=0.13u Cu=8f n=1
*.iopin VSS
*.iopin A
*.iopin VDD
*.ipin D
*.iopin B
*.iopin vtop
x1 VDD D VSS vcap B A dac_switch W_P_TG=0.15u L_P_TG=0.13u W_N_TG=0.15u L_N_TG=0.13u n=n
C1 vcap vtop Cu m=n
.ends


* expanding   symbol:  logic/bit_cell.sym # of pins=8
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/logic/bit_cell.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/logic/bit_cell.sch
.subckt bit_cell clk p_bit_dec reset comp_in VDD bit VSS dec
*.iopin p_bit_dec
*.iopin clk
*.iopin reset
*.iopin comp_in
*.iopin VDD
*.iopin VSS
*.iopin bit
*.iopin dec
x1 VDD net2 net4 VSS net5 net1 SR_latch W_P_SR=1.0u L_P_SR=0.13u W_N_SR=1.0u L_N_SR=0.13u
x23 net1 net6 n_dec VDD VSS sg13g2_and2_1
x14 net2 n_dec comp_in VDD VSS sg13g2_and2_1
x30 net6 comp_in VDD VSS sg13g2_inv_2
x53 net3 n_dec clk p_bit_dec reset VDD VSS sg13g2_dfrbp_1
* noconn #net4
x2 VDD net5 net7 VSS buffer_lv W_P_INV=3.0u L_P_INV=0.13u W_N_INV=1.0u L_N_INV=0.13u
x3 VDD net3 net8 VSS buffer_lv W_P_INV=3.0u L_P_INV=0.13u W_N_INV=1.0u L_N_INV=0.13u
x4 VDD net8 dec VSS buffer_lv W_P_INV=10.0u L_P_INV=0.13u W_N_INV=10.0u L_N_INV=0.13u
x5 VDD net7 bit VSS buffer_lv W_P_INV=10.0u L_P_INV=0.13u W_N_INV=10.0u L_N_INV=0.13u
.ends


* expanding   symbol:  comparator/NOR_gate/NOR_gate.sym # of pins=5
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/comparator/NOR_gate/NOR_gate.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/comparator/NOR_gate/NOR_gate.sch
.subckt NOR_gate VDD C A B VSS  W_P=1.0u L_P=0.13u W_N=0.5u L_N=0.13u
*.iopin VDD
*.opin C
*.iopin VSS
*.ipin A
*.ipin B
XM1 C A VSS VSS sg13_lv_nmos w=W_N l=L_N ng=1 m=1
XM2 C B VSS VSS sg13_lv_nmos w=W_N l=L_N ng=1 m=1
XM3 C B net1 VDD sg13_lv_pmos w=W_P l=L_P ng=1 m=1
XM4 net1 A VDD VDD sg13_lv_pmos w=W_P l=L_P ng=1 m=1
XM5 C A net2 VDD sg13_lv_pmos w=W_P l=L_P ng=1 m=1
XM6 net2 B VDD VDD sg13_lv_pmos w=W_P l=L_P ng=1 m=1
.ends


* expanding   symbol:  dac_icms_cell/dac_switch_n.sym # of pins=6
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/dac_icms_cell/dac_switch_n.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/dac_icms_cell/dac_switch_n.sch
.subckt dac_switch_n VDD di_spdt_ctrl VSS v_c v_b v_a  W_P_TG=3.0u L_P_TG=0.13u W_N_TG=1.0u L_N_TG=0.13u n=1
*.iopin v_a
*.iopin v_c
*.iopin VDD
*.iopin VSS
*.ipin di_spdt_ctrl
*.iopin v_b
x1 VDD di_spdt_ctrl_n VSS v_c v_a di_spdt_ctrl transmission_gate_lv_wo_dummy W_P=W_P_TG L_P=L_P_TG W_N=W_N_TG L_N=L_N_TG
x8 VDD di_spdt_ctrl di_spdt_ctrl_n VSS inverter_lv W_P=W_P_TG L_P=L_P_TG W_N=W_N_TG L_N=L_N_TG n=n
XM1 net1 net2 VSS VSS sg13_lv_nmos w=1u l=0.2u ng=1 m=n
XM3 net1 net2 VDD VDD sg13_lv_pmos w=1.2u l=0.2u ng=1 m=n
x2 VDD di_spdt_ctrl VSS v_c net1 di_spdt_ctrl_n transmission_gate_lv_w_dummy W_P=W_P_TG L_P=L_P_TG W_N=W_N_TG L_N=L_N_TG
+ W_P_D=1.0u L_P_D=0.13u W_N_D=1.0u L_N_D=0.13u n=n
XM2 net2 v_b VSS VSS sg13_lv_nmos w=0.2u l=0.13u ng=1 m=n
XM4 net2 v_b VDD VDD sg13_lv_pmos w=0.2u l=0.13u ng=1 m=n
.ends


* expanding   symbol:  dac_icms_cell/dac_switch.sym # of pins=6
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/dac_icms_cell/dac_switch.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/dac_icms_cell/dac_switch.sch
.subckt dac_switch VDD di_spdt_ctrl VSS v_c v_b v_a  W_P_TG=3.0u L_P_TG=0.13u W_N_TG=1.0u L_N_TG=0.13u n=1
*.iopin v_a
*.iopin v_c
*.iopin VDD
*.iopin VSS
*.ipin di_spdt_ctrl
*.iopin v_b
x1 VDD di_spdt_ctrl_n VSS v_c v_a di_spdt_ctrl transmission_gate_lv_w_dummy W_P=W_P_TG L_P=L_P_TG W_N=W_N_TG L_N=L_N_TG W_P_D=1.0u
+ L_P_D=0.13u W_N_D=1.0u L_N_D=0.13u n=n
x8 VDD di_spdt_ctrl di_spdt_ctrl_n VSS inverter_lv W_P=W_P_TG L_P=L_P_TG W_N=W_N_TG L_N=L_N_TG n=n
XM1 net1 v_b VSS VSS sg13_lv_nmos w=1u l=0.2u ng=1 m=n
XM3 net1 v_b VDD VDD sg13_lv_pmos w=2u l=0.2u ng=1 m=n
x2 VDD di_spdt_ctrl VSS v_c net1 di_spdt_ctrl_n transmission_gate_lv_w_dummy W_P=W_P_TG L_P=L_P_TG W_N=W_N_TG L_N=L_N_TG
+ W_P_D=1.0u L_P_D=0.13u W_N_D=1.0u L_N_D=0.13u n=n
.ends


* expanding   symbol:  transmission_gate/transmission_gate_lv_wo_dummy.sym # of pins=6
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/transmission_gate/transmission_gate_lv_wo_dummy.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/transmission_gate/transmission_gate_lv_wo_dummy.sch
.subckt transmission_gate_lv_wo_dummy VDD di_tg_ctrl VSS v_b v_a di_tg_ctrl_n  W_P=1.0u L_P=0.13u W_N=1.0u L_N=0.13u
*.iopin v_a
*.iopin v_b
*.iopin VDD
*.iopin VSS
*.ipin di_tg_ctrl
*.ipin di_tg_ctrl_n
XM1 v_a di_tg_ctrl v_b VSS sg13_lv_nmos w=W_N l=L_N ng=1 m=1
XM2 v_a di_tg_ctrl_n v_b VDD sg13_lv_pmos w=W_P l=L_P ng=1 m=1
.ends

.end
